US07314936B2
A solution of ethyl-oxiranylmethyl-phenyl-amine (1.72 g, 9.65 mmol) and NaOMe (1.04 g, 2.0 eq.) in MeOH(8 mL) was heated at reflux for over weekend. After cooling to room temperature, the mixture was diluted with sat. NaHCO3 (20 mL) and extracted with 3×20 mL of EtOAc. The combined extracts were dried over Na2SO4, filtered and concentrated and the product was purified by chromatography (30% EtOAc-hexanes) to give 1-(ethyl-phenyl-amino)-3-methoxy-propan-2-ol (1.95 g, 97%).

reactant | ethyl-oxiranylmethyl-phenyl-amine | 9.65 mmol, 1.72 g | C(C)N(C1=CC=CC=C1)CC1OC1 | C11H15NO
reactant | NaOMe | 1.04 g, 2.0 eq. | C[O-].[Na+]
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | MeOH | 8 mL | CO | CH4O
product | 1-(ethyl-phenyl-amino)-3-methoxy-propan-2-ol | 1.95 g, 97% | C(C)N(CC(COC)O)C1=CC=CC=C1 | C12H19NO2
